US05132424
B. 5-(4-Ethoxyphenyl)pyrazol-3-amine
A (21.1 g, 112 mmole) portion of p-ethoxy-benzoylacetonitrile from Part A hereinabove and hydrazine monohydrate (7.0 mL, 144 mmole) were combined in 95% ethanol (145 mL) and refluxed for two hours. After cooling, the solvent was evaporated under vacuum and the crystalline residue recrystallized from ethyl acetate (500 mL) to afford 16.14 g (71%) of the subtitled compound as fine white needles (m.p. 152°-156°). An analytical sample was prepared with a second recrystallization (m.p. 155°-157°). 1H NMR (DMSO d6, δ) 7.57 (d, 2H, J=9 Hz, o-phenyl), 6.93 (d, 2H, J=9 Hz, m-phenyl), 5.70 (bs, 1H, pyrazole N-H), 4.35 (bs, 2H, NH2), 4.03 (q, 2H, J=7 Hz), 1.34 (t, 3H, J=7 Hz); IR (mull) 3397, 3136, 1615; 1519, 1474 cm-1 ; UV (ethanol) λ-max(ε) 205(25000), 261(20500); MS m/e(rel. intens.) 203 (M+, 100), 175, (90), 146 (35); Analysis calc'd for C11H13N3O=C, 65.01; H, 6.45; N, 20.67; found=C, 64.73; H, 6.77; N, 20.59; TLC (silica, 15% MeOH/CHCl3) Rf=0.50.

reactant | p-ethoxy-benzoylacetonitrile | C(C)OC1=CC=C(C(=O)CC#N)C=C1 | C11H11NO2
reactant | hydrazine monohydrate | 144 mmole, 7.0 mL | O.NN
reactant | ethanol | 145 mL | C(C)O | C2H6O
product | 5-(4-Ethoxyphenyl)pyrazol-3-amine | 16.14 g, 71% | C(C)OC1=CC=C(C=C1)C1=CC(=NN1)N | C11H13N3O
